US06316482B1
To a solution of methyl 2-benzyloxymethylindole-4-carboxylate (650 mg) in methanol (27 ml) and concentrated hydrochloric acid (3.0 ml) was added sodium cyanoborohydride (968 mg) with ice-bath stirring and the mixture was stirred at ambient temperature for 2.5 hours. The resulting mixture was diluted with water (30 ml) and basified with saturated sodium bicarbonate aqueous solution. The mixture was extracted with ethyl acetate (40 ml) and the organic layer was washed successively with water and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=6:1) to give methyl 2-benzyloxymethylindoline-4-carboxylate (550 mg).

reactant | methyl 2-benzyloxymethylindole-4-carboxylate | 650 mg | C(C1=CC=CC=C1)OCC=1NC=2C=CC=C(C2C1)C(=O)OC | C18H17NO3
reactant | sodium cyanoborohydride | 968 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 27 ml | CO | CH4O
solvent | hydrochloric acid | 3.0 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | methyl 2-benzyloxymethylindoline-4-carboxylate | 550 mg | C(C1=CC=CC=C1)OCC1NC=2C=CC=C(C2C1)C(=O)OC | C18H19NO3
